US04051252
0.1 mol of 3-amino-6-chloro-indazole in 100 ml of pyrocarbonic acid diethyl ester is heated for 5 hours to 100° C, while stirring. After cooling, 100 ml of diethyl ether are added and 3-amino-6-chloroindazole-1-carboxylic acid ethyl ester is isolated, by filtration, in the form of colorless crystals (melting point: 190°-192° C; 60% of theory).

reactant | 3-amino-6-chloro-indazole | 0.1 mol | NC1=NNC2=CC(=CC=C12)Cl | C7H6ClN3
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
reactant | pyrocarbonic acid diethyl ester | 100 ml | C(C)OC(=O)OC(=O)OCC | C6H10O5
product | 3-amino-6-chloroindazole-1-carboxylic acid ethyl ester | C(C)OC(=O)N1N=C(C2=CC=C(C=C12)Cl)N | C10H10ClN3O2
